US07268230B2
1-Prop-2-ynylpiperazine diTFA salt (329 mg, 0.94 mmol) and potassium carbonate (258 mg, 1.87 mmol) were added to a solution of 7-(3-bromopropoxy)-4-[(4-fluoro-2-methylindol-5-yl)oxy]-6-methoxyquinazoline (144 mg, 0.31 mmol), (prepared as described for the starting material in Example 7), in DMA (3.6 ml). The reaction mixture was stirred at 85° C. overnight before being filtered. The filtrate was concentrated under vacuum and the crude product was purified by column chromatography eluting with increasingly polar mixtures of ammonia/methanol in methylene chloride (1 to 7%). A second purification by column chromatography eluting with a mixture of methanol in methylene chloride (1/9) gave 4-[(4-fluoro-2-methylindol-5-yl)oxy]-6-methoxy-7-(3-[4-(2-propynyl)piperazin-1-yl]propoxy}quinazoline as a white solid (115 mg, 73%).

reactant | 1-Prop-2-ynylpiperazine diTFA salt | 0.94 mmol, 329 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.C(C#C)N1CCNCC1
reactant | potassium carbonate | 1.87 mmol, 258 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(3-bromopropoxy)-4-[(4-fluoro-2-methylindol-5-yl)oxy]-6-methoxyquinazoline | 0.31 mmol, 144 mg | BrCCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C21H19BrFN3O3
solvent | DMA | 3.6 ml | CC(=O)N(C)C | C4H9NO
product | 4-[(4-fluoro-2-methylindol-5-yl)oxy]-6-methoxy-7-(3-[4-(2-propynyl)piperazin-1-yl]propoxy}quinazoline | 115 mg, 73% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)CC#C)C | C28H30FN5O3
